US08685969B2
2. Benzyl 3-(2-amino-1-(6-morpholino-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate
A heterogeneous solution of benzyl 2-methyl-3-(1-(6-morpholino-1H-indol-3-yl)-2-nitroethyl)phenylcarbamate (1.8743 g, 3.64 mmol), ammonium chloride (2.92 g, 54.6 mmol) and zinc (3.57 g, 54.6 mmol) in THF (Ratio: 1.000, Volume: 79 ml) and methanol (Ratio: 1.000, Volume: 79 ml) was stirred under nitrogen for 2.5 hr. EtOAc (60 mL) was added, and the solution was filtered through a pad of CELITE®. The filtrate was concentrated in vacuo; the residue was dissolved in water (50 mL) and EtOAc (75 mL). After separation of the layers, the aqueous layer was extracted with EtOAc (2×75 mL). The organic layers were combined, dried over MgSO4, and concentrated in vacuo to give the desired product (1.4934 g, 3.08 mmol, 85% yield) as a tan solid.

reactant | benzyl 2-methyl-3-(1-(6-morpholino-1H-indol-3-yl)-2-nitroethyl)phenylcarbamate | 3.64 mmol, 1.8743 g | CC1=C(C=CC=C1C(C[N+](=O)[O-])C1=CNC2=CC(=CC=C12)N1CCOCC1)NC(OCC1=CC=CC=C1)=O | C29H30N4O5
reactant | ammonium chloride | 54.6 mmol, 2.92 g | [Cl-].[NH4+]
reactant | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | THF | 79 ml | C1CCOC1 | C4H8O
solvent | methanol | 79 ml | CO | CH4O
catalyst | zinc | 54.6 mmol, 3.57 g | [Zn] | Zn
product | Benzyl 3-(2-amino-1-(6-morpholino-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate | 3.08 mmol, 1.4934 g, 85% yield | NCC(C1=CNC2=CC(=CC=C12)N1CCOCC1)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C29H32N4O3
